US07390925B2
Step B: 3-Hydroxy-3-(4-methoxyphenyl)propanoic acid
To a solution of ethyl 3-hydroxy-3-(4-methoxyphenyl)propanoate (252 mg, 1.1 mmol) in THF (1.1 mL) was added 1 N lithium hydroxide (1.1 mL), and the resulting solution was stirred at room temperature for 3 h. Most of the solvents were removed in vacuo, and 1N hydrochloric acid (1.1 mL) was added. The aqueous layer was extrated with ethyl acetate (x3), and the combined organic layers were dried over anhydrous sodium sulfate and filtered. The filtrate was evaporated in vacuo to give the title compound as an off-white solid (200 mg, 91% yield). 1H NMR (400 MHz, CD3OD) δ 2.57-2.63 (m, 1 H) 2.65-2.72 (m, 1 H) 3.29 (s, 8 H) 3.76 (s, 3 H) 4.82 (s, 9 H) 5.01 (dd, J=8.56, 5.29 Hz, 1 H) 6.86 (ddd, J=9.19, 2.77, 2.39 Hz, 2 H) 7.26-7.30 (m, 2 H). HPLC retention time: 1.392 min (method A). MS (ESI) (M+Na)+ 218.92.

reactant | ethyl 3-hydroxy-3-(4-methoxyphenyl)propanoate | 1.1 mmol, 252 mg | OC(CC(=O)OCC)C1=CC=C(C=C1)OC | C12H16O4
reactant | lithium hydroxide | 1 N, 1.1 mL | [OH-].[Li+]
solvent | THF | 1.1 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-3-(4-methoxyphenyl)propanoic acid | 200 mg, 91% yield | OC(CC(=O)O)C1=CC=C(C=C1)OC | C10H12O4
